US04234594
1-Benzoyl-2(1,3-dimethyl-5-pyrazolyl) amino-2-imidazoline
5-amino-1,3-dimethylpyrazole (20.0 g.) and 1-benzoyl-2-imidazolinone (British Pat. No. 1,392,849) (28.4 g.) were reacted as described in Example I to give 22.02 g. product. mp 147°-149°

reactant | 5-amino-1,3-dimethylpyrazole | 20.0 g | NC1=CC(=NN1C)C | C5H9N3
reactant | 1-benzoyl-2-imidazolinone | C(C1=CC=CC=C1)(=O)N1C=NC(C1)=O | C10H8N2O2
product | 1-Benzoyl-2(1,3-dimethyl-5-pyrazolyl) amino-2-imidazoline | C(C1=CC=CC=C1)(=O)N1C(=NCC1)NC1=CC(=NN1C)C | C15H17N5O
